US07642277B2
a) 2-{(2-Bromophenyl)thio}acetic acid
2-Bromothiophenol (4.00 g, 21.6 mmol) was added to a solution of methyl 2-bromoacetate (2.20 mL, 23.3 mmol) and pyridine (1.88 mL, 23.3 mmol) in DMSO (50 mL) at room temperature. The reaction mixture was stirred at room temperature for 1 h. The mixture was diluted with EtOAc (300 mL) and the resulting solution was washed with water (2×250 mL) and brine (100 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was dissolved in THF (50 mL), aqueous 1 N NaOH solution (25 mL, 25 mmol) was added and the mixture was stirred at room temperature for 45 min. The mixture was concentrated and the aqueous solution was diluted with aqueous 1 N NaOH solution. The solution was cooled to 0° C. and was slowly rendered acidic (pH=2) by addition of aqueous 1 N HCl solution. The resulting suspension was filtered, the solid was washed with water and dried under reduced pressure to give the title compound (3.71 g, 71% yield) as a white solid.

reactant | 2-Bromothiophenol | 21.6 mmol, 4.00 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | methyl 2-bromoacetate | 23.3 mmol, 2.20 mL | BrCC(=O)OC | C3H5BrO2
reactant | pyridine | 23.3 mmol, 1.88 mL | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 25 mmol, 1 N, 25 mL | [OH-].[Na+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 2-{(2-Bromophenyl)thio}acetic acid | 3.71 g, 71% yield | BrC1=C(C=CC=C1)SCC(=O)O | C8H7BrO2S
